US06004959
5-(2-diethylamino-ethoxy)-4-methoxy-2-propoxy-fluoren-9-one
In a manner analagous to Example 9B, react 5-hydroxy-2-propoxy-4-methoxy-fluoren-9-one (1.75 g, 6.1) in 5 mL methanol and 100 mL chlorobenzene with 2-chloroethyldiethyl amine hydrochloride (4.4 g, 25 mmole) and sodium methoxide (0.51 g, 9.5 mmole) and reflux for 2 hours then continue as in Example 9B to give 1.1 g. of the title compound (2.9 mmole, 47%).

reactant | 5-hydroxy-2-propoxy-4-methoxy-fluoren-9-one | 1.75 g | OC1=C2C=3C(=CC(=CC3C(C2=CC=C1)=O)OCCC)OC | C17H16O4
reactant | 2-chloroethyldiethyl amine hydrochloride | 25 mmole, 4.4 g | Cl.ClCCN(CC)CC
reactant | sodium methoxide | 9.5 mmole, 0.51 g | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-(2-diethylamino-ethoxy)-4-methoxy-2-propoxy-fluoren-9-one | 2.9 mmole, 47% | C(C)N(CCOC1=C2C=3C(=CC(=CC3C(C2=CC=C1)=O)OCCC)OC)CC | C23H29NO4
